US08283353B2
methyl (4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}piperidin-1-yl)acetate
A mixture of 4′-[(5-oxo-4-piperidin-4-yl-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (453 mg), ethyl bromoacetate (184 mg), potassium carbonate (276 mg) and N,N-dimethylformamide (5 mL) was stirred at 60° C. for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=60/40→35/65 (volume ratio)] to give the title compound as a colorless amorphous compound (418 mg, 80%).

reactant | 4′-[(5-oxo-4-piperidin-4-yl-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 453 mg | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCNCC2 | C27H28N6O
reactant | ethyl bromoacetate | 184 mg | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl (4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}piperidin-1-yl)acetate | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)C2CCN(CC2)CC(=O)OC)=O | C30H32N6O3
